2109-07-26 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2109-7-25**] 08:02 PM
   tag red cell.
   GI recs:
   - Tagged RBC scan yesterday negative
   - Hct Q6-8HR
   - 2 large bore IVs
   - being tx'd 2 more units for a total of 6u today
   - recommend foley (ordered)
   - page [**Numeric Identifier 8040**] immediately with result of tagged cell scan regardless of
   outcome"
   -however still bleeding c hct drop from 26->23, transfused addl 2 U for
   total of 8U
   -bowel prep
   -plan for scope today in afternoon
   -arrived at [**Hospital1 1**], HCT remains at 25 after 4 units PRBC.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2109-7-26**] 01:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-7-26**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 89 (82 - 120) bpm
   BP: 124/66(81) {92/47(58) - 152/100(103)} mmHg
   RR: 15 (10 - 81) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,948 mL
                                                                  1,303 mL
   PO:
           TF:
   IVF:
                                                                  1,248 mL
                                                                    603 mL
   Blood products:
                                                                    700 mL
                                                                    700 mL
   Total out:
                                                                    800 mL
                                                                    800 mL
   Urine:
                                                                    500 mL
                                                                    600 mL
   NG:
   Stool:
                                                                    300 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,148 mL
                                                                    503 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   285 K/uL
   8.7 g/dL
   102 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.7 mEq/L
   8 mg/dL
   110 mEq/L
   141 mEq/L
   23.0 %
   10.2 K/uL
        [image002.jpg]
                             [**2109-7-25**]  02:58 PM
                             [**2109-7-25**]  11:42 PM
   WBC
   10.2
   Hct
   25.8
   23.0
   Plt
   285
   Cr
   0.7
   Glucose
   102
   Other labs: PT / PTT / INR:13.1/27.3/1.1, ALT / AST:[**9-9**], Alk Phos / T
   Bili:24/1.0, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   Assessment and Plan
   63 y/o M with PMhx of Prostate Cancer, HTN and Hypothyroidism who p/w
   lower GI bleed.
   .
   # GI bleed: Pt p/w acute onset of BRBPR now s/p colonoscopy likely c/w
   diverticular bleed.  Per OSH, he put out 1200cc of BRBPR and
   transferred s/p 4 U. Pt had approx 300cc of bloody output on arrival to
   ICU and stat hct 25.  rec'd 2U and hct down to 23. Ordered addtional 2U
   overnight, awaiting am hct. Concern for active bleed with tachycardia,
   though hypertensive and mentating.
   -giving 1 more unit PRBC this morning
   - gen [**Doctor First Name **] and IR aware
   - NPO with IVF and PPI [**Hospital1 **]
   - maintain 2 PIVs
   - hold ASA given bleed
   -tagged RBC scan unremarkable however continues to bleed
   -plan to scope today
   .
   # Hypothyroidism: Continue Levothyroxine 112mcg daily
   .
   # Hypertension: holding anti-htn meds give GI bleed
   .
   # FEN: NPO with IVF
   -replete electrolytes
   .
   # Prophylaxis: pneumoboots, PPI
   .
   # Access: PIV x 2
   .
   # Code: presumed full
   .
   # Communication: Patient
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-7-25**] 03:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-07-26 11:20:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Tagged pRBC scan negative yesterday.
   4 units total pRBCs since arrival
   More BRBPR with colonoscopy prep
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2109-7-25**] 08:02 PM
   tag red cell.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2109-7-26**] 01:57 AM
   Pantoprazole (Protonix) - [**2109-7-26**] 08:00 AM
   Other medications:
   pre ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2109-7-26**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 111 (82 - 120) bpm
   BP: 113/96(100) {92/47(58) - 152/100(103)} mmHg
   RR: 20 (10 - 81) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 74 Inch
           Total In:
                                                                  1,948 mL
                                                                  1,994 mL
   PO:
           TF:
   IVF:
                                                                  1,248 mL
                                                                  1,133 mL
   Blood products:
                                                                    700 mL
                                                                    860 mL
   Total out:
                                                                    800 mL
                                                                  2,900 mL
   Urine:
                                                                    500 mL
                                                                  1,400 mL
   NG:
   Stool:
                                                                    300 mL
                                                                  1,500 mL
   Drains:
   Balance:
                                                                  1,148 mL
                                                                   -906 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   198 K/uL
   100 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.8 mEq/L
   10 mg/dL
   108 mEq/L
   138 mEq/L
   25.5 %
   7.5 K/uL
        [image002.jpg]
                             [**2109-7-25**]  02:58 PM
                             [**2109-7-25**]  11:42 PM
                             [**2109-7-26**]  04:56 AM
   WBC
   10.2
   7.5
   Hct
   25.8
   23.0
   25.5
   Plt
   285
   198
   Cr
   0.7
   0.6
   Glucose
   102
   100
   Other labs: PT / PTT / INR:12.5/28.4/1.1, ALT / AST:[**9-9**], Alk Phos / T
   Bili:24/1.0, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   63 yo man with h/o diverticlosis, her with GI Bleed
   GI Bleed: 1 further unit pRBCs.  Follows Hcts.  PPI.  Colonoscopy
   today.  Disposition pending colonscopy
   Other issues per ICU team.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-7-25**] 03:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 30 minutes
   Patient is critically ill

2109-07-27 06:03:00 Physician Resident Progress Note
Chief Complaint: 63 y/o M with PMhx of Prostate Cancer, HTN and
   Hypothyroidism who p/w lower GI bleed.
   24 Hour Events:
   -spoke with GI, scheduled scope at 11 am tomorrow - request Mg citrate
   at 8:30 am for prep tomorrow.
   -8pm Hct 25 - stable over 6 hours
   -3am Hct dropped to 20--> transfused 2 units
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-7-26**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-7-27**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 94 (73 - 111) bpm
   BP: 123/77(89) {90/41(54) - 151/96(101)} mmHg
   RR: 16 (12 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
           Total In:
                                                                  3,523 mL
                                                                    731 mL
   PO:
                                                                    120 mL
           TF:
   IVF:
                                                                  2,420 mL
                                                                    585 mL
   Blood products:
                                                                    983 mL
                                                                    146 mL
   Total out:
                                                                  4,900 mL
                                                                    750 mL
   Urine:
                                                                  2,600 mL
                                                                    400 mL
   NG:
   Stool:
                                                                  2,300 mL
                                                                    350 mL
   Drains:
   Balance:
                                                                 -1,377 mL
                                                                    -19 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Alert, oriented x3, comfortable
   Lungs CTAB
   RRR, no MRG
   Abdomen soft, non-tender, non-distended
   Trace pedal edema
   Labs / Radiology
   205 K/uL
   7.4 g/dL
   123 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   6 mg/dL
   109 mEq/L
   138 mEq/L
   20.8 %
   7.0 K/uL
        [image002.jpg]
                             [**2109-7-25**]  02:58 PM
                             [**2109-7-25**]  11:42 PM
                             [**2109-7-26**]  04:56 AM
                             [**2109-7-26**]  01:32 PM
                             [**2109-7-26**]  08:18 PM
                             [**2109-7-27**]  03:15 AM
   WBC
   10.2
   7.5
   7.0
   Hct
   25.8
   23.0
   25.5
   25.0
   25
   20.8
   Plt
   285
   198
   205
   Cr
   0.7
   0.6
   0.7
   Glucose
   102
   100
   123
   Other labs: PT / PTT / INR:12.8/27.8/1.1, ALT / AST:[**9-9**], Alk Phos / T
   Bili:24/1.0, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   63 y/o M with PMhx of Prostate Cancer, HTN and Hypothyroidism who p/w
   lower GI bleed.
   .
   # GI bleed: Pt p/w acute onset of BRBPR - likely c/w diverticular
   bleed.  Per OSH, he put out 1200cc of BRBPR and transferred s/p 4 U.
   Now has received total of 11 units of PRBC between OSH and here.
   Planned for colonoscopy yesterday, but prep was not adequate, so
   postponed until this morning.
   -HCT stable between 2 pm and 8 pm, however at 3 am had dropped 4
   points.  Currently receiving 2 more units PRBC.
   - gen [**Doctor First Name **] and IR aware.  Will contact today.
   -Mg citrate to start at 8:30 am per GI recs, scope scheduled at 11:30
   am.
   - NPO with IVF and PPI [**Hospital1 **]
   - maintain 2 PIVs, likely get central access later today.
   - hold ASA given bleed
   -tagged RBC scan unremarkable 2 days ago, however continues to bleed.
   -Follow coags
 INR 1.1 today, but will be watchful for dilutional
   coagulopathy.
   .
   # Hypothyroidism: Continue Levothyroxine 112mcg daily
   .
   # Hypertension: holding anti-htn meds give GI bleed
   .
   # FEN: NPO with IVF
   -replete electrolytes PRN
   .
   # Prophylaxis: pneumoboots, PPI
   .
   # Access: PIV x 2
   .
   # Code: presumed full
   .
   # Communication: Patient
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-7-26**] 03:00 PM  + 20 gauge
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname 8083**] has had fresh hematochezia with urgency last night and a
   need for 2 more units of pRBC
s. If his colonoscopy shows features of
   active bleeding, he will need a nuclear medicine scan and IR guided
   embolization. Surgical colleagues also following. INR is 1.1 today too.
   If he has continued need for further transfusion, he will have a cordis
   catheter placed at bedside to aid rescucitation.
   Patient is ill
   Total time: 35 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2109-7-27**] 17:31 ------

2109-07-28 07:54:00 Physician Resident Progress Note
Chief Complaint: 63 y/o M with PMhx of Prostate Cancer, HTN and
   Hypothyroidism and diverticulosis who p/w lower GI bleed thought to be
   diverticular bleed.
   24 Hour Events:
 COLONOSCOPY - At [**2109-7-27**] 11:45 AM
   -got 2 Units on [**7-27**] early in the am bumped from 20.8-->25.8
   -looked great throughout the day- Hcts stable at 28, no hemodynamic
   instability. hct dropped to 24 this am. had gotten IVF o/n and had one
   bloody BM
   -[**Last Name (un) **] showed: Blood in the colon, Diverticulosis of the whole colon,
   Otherwise normal colonoscopy to cecum, Recommendations: If re-bleeds,
   bleeding scan followed by angiogram. Remain NPO for now.
   -Pt started on IV maintenance fluids while NPO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-7-27**] 08:00 PM
   Lorazepam (Ativan) - [**2109-7-27**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-7-28**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.5
   HR: 78 (70 - 93) bpm
   BP: 115/67(79) {99/55(66) - 139/80(92)} mmHg
   RR: 14 (6 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
             Total In:
                                                                  1,666 mL
                                                                    946 mL
   PO:
             TF:
   IVF:
                                                                    916 mL
                                                                    946 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  3,075 mL
                                                                    700 mL
   Urine:
                                                                  1,825 mL
                                                                    700 mL
   NG:
   Stool:
                                                                  1,250 mL
   Drains:
   Balance:
                                                                 -1,409 mL
                                                                    248 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   195 K/uL
   8.1 g/dL
   86 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.7 mEq/L
   8 mg/dL
   109 mEq/L
   140 mEq/L
   24.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2109-7-25**]  02:58 PM
                             [**2109-7-25**]  11:42 PM
                             [**2109-7-26**]  04:56 AM
                             [**2109-7-26**]  01:32 PM
                             [**2109-7-26**]  08:18 PM
                             [**2109-7-27**]  03:15 AM
                             [**2109-7-27**]  11:44 AM
                             [**2109-7-27**]  05:20 PM
                             [**2109-7-27**]  09:05 PM
                             [**2109-7-28**]  03:46 AM
   WBC
   10.2
   7.5
   7.0
   6.5
   Hct
   25.8
   23.0
   25.5
   25.0
   25
   20.8
   25.8
   26.6
   28.0
   24.0
   Plt
   285
   198
   205
   195
   Cr
   0.7
   0.6
   0.7
   0.7
   Glucose
   102
   100
   123
   86
   Other labs: PT / PTT / INR:11.8/25.9/1.0, ALT / AST:[**9-9**], Alk Phos / T
   Bili:24/1.0, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   63 y/o M with PMhx of Prostate Cancer, HTN and Hypothyroidism who p/w
   lower GI bleed.
   .
   # GI bleed: Pt p/w acute onset of BRBPR - likely c/w diverticular
   bleed.  Per OSH, he put out 1200cc of BRBPR and transferred s/p 4 U.
   Now has received total of 13 units of PRBC between OSH and here.
   -rec'd no blood since 3am on [**7-27**]
   -goal hct 25
   -scope yesterday showed diverticuli no source of bleeding identified.
   - PPI [**Hospital1 **]
   - maintain 2 PIVs.
   - hold ASA given bleed
   -If he should require further transfusion for diverticular bleeding,
   surgery staff to decide regarding timing of partial colectomy
   -Follow coags
will be watchful for dilutional coagulopathy.
   .
   # Hypothyroidism: Continue Levothyroxine 112mcg daily
   .
   # Hypertension: holding anti-htn meds give GI bleed
   .
   # FEN: NPO with IVF
   -replete electrolytes PRN
   .
   # Prophylaxis: pneumoboots, PPI
   .
   # Access: PIV x 2
   .
   # Code:  full
   .
   # Communication: Patient
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-7-26**] 03:00 PM
   20 Gauge - [**2109-7-27**] 06:50 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU today
   Time spent : 20 mins
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Name13 (STitle) 8121**] has not needed further transfusion over the past 28 hours.
   His colonoscopy did not show an active source of blood loss. He has
   been hemodynamically stable without orthostatic change in HR too. We
   will advance to clear liquids today and assess his Hct every 8 hrs. If
   he does not need further transfusion he will leave ICU in am [**2109-7-29**]. If
   there is further hematochezia, we will need surgical intervention. He
   is distressed about the possibility of a colostomy.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 20 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2109-7-28**] 14:37 ------

2109-07-29 08:14:00 Physician Resident Progress Note
Chief Complaint: 63 y/o M with PMhx of Prostate Cancer, HTN and
   Hypothyroidism who p/w lower GI bleed.
   24 Hour Events:
   -hcts stable
   -no bloody bowel movements (but would double check c nsg one more time
   in the am)
   -advanced diet to clear liquids in afternoon which he tolerated well
   -sw consult placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2109-7-28**] 11:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-7-29**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 83 (71 - 96) bpm
   BP: 121/70(82) {90/46(56) - 142/93(110)} mmHg
   RR: 10 (10 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
                  Total In:
                                                                  2,069 mL
                                                                    600 mL
   PO:
                                                                    600 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  1,469 mL
   Blood products:
   Total out:
                                                                  3,220 mL
                                                                  1,100 mL
   Urine:
                                                                  3,220 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,151 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   280 K/uL
   8.0 g/dL
   84 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   8 mg/dL
   105 mEq/L
   139 mEq/L
   25.4 %
   5.7 K/uL
        [image002.jpg]
                             [**2109-7-27**]  03:15 AM
                             [**2109-7-27**]  11:44 AM
                             [**2109-7-27**]  05:20 PM
                             [**2109-7-27**]  09:05 PM
                             [**2109-7-28**]  03:46 AM
                             [**2109-7-28**]  09:17 AM
                             [**2109-7-28**]  03:55 PM
                             [**2109-7-28**]  11:26 PM
                             [**2109-7-29**]  05:53 AM
                             [**2109-7-29**]  07:17 AM
   WBC
   7.0
   6.5
   5.7
   Hct
   20.8
   25.8
   26.6
   28.0
   24.0
   25.6
   25.6
   26.6
   23.5
   25.4
   Plt
   [**Telephone/Fax (3) 8141**]
   Cr
   0.7
   0.7
   0.7
   Glucose
   123
   86
   84
   Other labs: PT / PTT / INR:12.3/23.5/1.0, ALT / AST:[**9-9**], Alk Phos / T
   Bili:24/1.0, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
   63 y/o M with PMhx of Prostate Cancer, HTN and Hypothyroidism who p/w
   lower GI bleed.
   .
   # GI bleed: Pt p/w acute onset of BRBPR - likely c/w diverticular
   bleed.  Per OSH, he put out 1200cc of BRBPR and transferred s/p 4 U.
   Now has received total of 11 units of PRBC between OSH and here.
   Colonoscopy showed diverticulosis of whole colon, no active
   bleeding.    Hematocrit stable yesterday, no evidence of bleeding
   yesterday or overnight.  However, HCT lower this morning.
   -advanced to clear liquids yesterday, tolerated.
   - gen [**Doctor First Name **] and IR aware.
   -Mg citrate to start at 8:30 am per GI recs, scope scheduled at 11:30
   am.
   - NPO with IVF and PPI [**Hospital1 **]
   - maintain 2 PIVs, likely get central access later today.
   - hold ASA given bleed
   -tagged RBC scan unremarkable 2 days ago, however continues to bleed.
   -Follow coags
 INR 1.1 today, but will be watchful for dilutional
   coagulopathy.
   .
   # Hypothyroidism: Continue Levothyroxine 112mcg daily
   .
   # Hypertension: holding anti-htn meds give GI bleed
   .
   # FEN: NPO with IVF
   -replete electrolytes PRN
   .
   # Prophylaxis: pneumoboots, PPI
   .
   # Access: PIV x 2
   .
   # Code: full
   .
   # Communication: Patient
   .
   # Disposition: call out to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-7-26**] 03:00 PM
   20 Gauge - [**2109-7-27**] 06:50 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor